US07495007B2
Preparation of intermediate 1-[5-bromo-2-(2-methoxycarbonyl-2-methyl-propoxy)phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene
To anhydrous tetrahydrofuran (40 mL) was added 1M THF solution of LiHMDS (25.9 mmol, 25.9 mL) under nitrogen at room temperature, followed by the addition of 3-(4-bromo-2-formyl-phenoxy)-2,2-dimethyl-propionic acid methyl ester (8 g, 25.9 mmol). The mixture was stirred at room temperature for 1 h, then trimethylsilyl chloride (3.3 mL, 25.9 mmol) was added dropwise. The temperature of the mixture was lowered to 0° C. on a cooling ice bath. To this mixture was added triethylamine (4.6 mL, 33.2 mmol) in one portion, followed by the dropwise addition of a solution of acetyl chloride (2.35 mL, 33.2 mmol) in diethyl ether (100 ml). The cooling bath was removed, and the mixture was stirred at room temperature overnight. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure to give title compound as a yellow gum and used for the next step without further purification.

reactant | LiHMDS | 25.9 mmol, 25.9 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3-(4-bromo-2-formyl-phenoxy)-2,2-dimethyl-propionic acid methyl ester | 25.9 mmol, 8 g | COC(C(COC1=C(C=C(C=C1)Br)C=O)(C)C)=O | C13H15BrO4
reactant | trimethylsilyl chloride | 25.9 mmol, 3.3 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 33.2 mmol, 4.6 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 33.2 mmol, 2.35 mL | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | THF | 1M | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-[5-bromo-2-(2-methoxycarbonyl-2-methyl-propoxy)phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OCC(C)(C)C(=O)OC | C18H26BrNO4Si
